US05157026
Step 1: Preparation of 2-butylimidazo[4,5-b]pyridine
A mixture of valeric acid (5.50 mL, 50.4 mmol), 2,3-diaminopyridine (5.0 g, 45.8 mmol), and polyphosphoric acid (50 g) was heated to 100° C. with stirring for 5 hours. Basification (NH4OH), extraction (EtOAc, 4×20 mL), drying (K2CO3), and concentration gave 7.61 g (95%) of the title compound as an amorphous tan solid which was judged pure by 1H NMR and tlc (mp ca 80° C. without recrystallization).

reactant | valeric acid | 50.4 mmol, 5.50 mL | C(CCCC)(=O)O | C5H10O2
reactant | 2,3-diaminopyridine | 45.8 mmol, 5.0 g | NC1=NC=CC=C1N | C5H7N3
product | 2-butylimidazo[4,5-b]pyridine | 7.61 g, 95% | C(CCC)C=1NC=2C(=NC=CC2)N1 | C10H13N3
